US07132426B2
Step 2: Preparation of 4-Methylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester
In a 32 mL reaction vial was placed a stir bar and 4-methylcarbamoyl-piperidine-1-carboxylic acid tert-butyl ester (0.97 g) dissolved in 12.8 mL anhydrous THF. The solution was cooled to 0° C. with an ice-bath. A 65% toluene solution of Red-A1 (3.66 mL) was added dropwise at 0° C. After the addition was completed, the mixture was stirred under N2 at room temperature until all the starting materials were just consumed. The reaction mixture was worked up with H2O at 0° C., extracted with EtOAc (×3). The EtOAc extract was washed with saturated NaCl solution. After drying over Na2SO4, the organic layer was concentrated to give 550 mg of crude product.

reactant | 4-methylcarbamoyl-piperidine-1-carboxylic acid tert-butyl ester | 0.97 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(NC)=O | C12H22N2O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 12.8 mL | C1CCOC1 | C4H8O
product | 4-Methylaminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 550 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC | C12H24N2O2
